US09302989B2
N-{6-[(cyclopentylmethyl)carbamoyl]pyridazin-3-yl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting cyclopentylmethamine for 3-phenylpropan-1-amine and 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ 9.97 (s, 1H), 9.00 (t, J=6.1 Hz, 1H), 8.31 (d, J=9.3 Hz, 1H), 8.11 (d, J=9.3 Hz, 1H), 7.41-7.28 (m, 4H), 5.13-4.72 (m, 4H), 3.31-3.16 (m, 2H), 2.22 (p, J=7.3 Hz, 1H), 1.70-1.45 (m, 6H), 1.38-1.20 (m, 2H); MS (ESI(+)) m/e 366 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(N=N1)C(=O)O | C14H12N4O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{6-[(cyclopentylmethyl)carbamoyl]pyridazin-3-yl}-1,3-dihydro-2H-isoindole-2-carboxamide | C1(CCCC1)CNC(=O)C1=CC=C(N=N1)NC(=O)N1CC2=CC=CC=C2C1 | C20H23N5O2
